US08227461B2
c) 6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid
As described for example 10a, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid methyl ester (960 mg, 2.95 mmol) was converted, instead of 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester, to the title compound (415 mg, 45%) which was obtained as a white solid. MS: m/e=310.1 [M−H]−.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid methyl ester | 2.95 mmol, 960 mg | COC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C17H15N3O4
reactant | 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)CCCC)=O | C16H20N2O4
product | 6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid | 415 mg, 45% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(N=N1)C(=O)O | C16H13N3O4
